US07514473B2
(c) (E)-3-{2,3-Difluoro-4-[(R)-2-hydroxy-3-(2-indan-2-yl-1,1-dimethyl-ethyl amino)-propoxy]-phenyl}-acrylic acid ethyl ester
A 150 mL sealed tube was charged with a stirring bar, (R)-1-(4-Bromo-2,3-difluorophenoxy)-3-(2-indan-2-yl-1,1-dimethyl-ethylamino)-propan-2-ol (3.06 g) 1 and propionitrile (70 mL). To this was added Pd(OAc)2 (0.151 g), P(O-tol)3 (0.82 g), ethyl acrylate (1.35 g), triethylamine (2.73 g) sequentially and deoxygenated the reaction by bubbling nitrogen for 15 minutes. The sealed tube was capped tightly and immersed into a preheated (120° C.) oil bath. The reaction was heated at this temperature for 12 hrs. Cool to ambient temperature and concentrated under reduced pressure. The crude residue was purified by flash column chromatography eluting initially with 50% EtoAc in hexanes and 100% EtOAc. At this time the eluting solvent mixtures were switched to 100% dichloromethane, 5% MeOH in dichloromethane followed by 8% MeOH in dichloromethane. The product was collected and concentrated to get the desired product (2.40 g, 75%) as pale yellow foam. MS (ES) m/z 474 [M+H]+.

reactant | (R)-1-(4-Bromo-2,3-difluorophenoxy)-3-(2-indan-2-yl-1,1-dimethyl-ethylamino)-propan-2-ol | 3.06 g | BrC1=C(C(=C(OC[C@@H](CNC(CC2CC3=CC=CC=C3C2)(C)C)O)C=C1)F)F | C22H26BrF2NO2
reactant | propionitrile | 70 mL | C(CC)#N | C3H5N
reactant | P(O-tol)3 | 0.82 g | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C | C21H21P
reactant | ethyl acrylate | 1.35 g | C(C=C)(=O)OCC | C5H8O2
catalyst | Pd(OAc)2 | 0.151 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | triethylamine | 2.73 g | C(C)N(CC)CC | C6H15N
product | (E)-3-{2,3-Difluoro-4-[(R)-2-hydroxy-3-(2-indan-2-yl-1,1-dimethyl-ethyl amino)-propoxy]-phenyl}-acrylic acid ethyl ester | 2.40 g, 75% | C(C)OC(\C=C\C1=C(C(=C(C=C1)OC[C@@H](CNC(CC1CC2=CC=CC=C2C1)(C)C)O)F)F)=O | C27H33F2NO4
